US06756382B2
Using the general method of Example 186 1-(8-aminooctyl)-1H-imidazo[4,5-c]quinolin-4-amine (3.85 mmol) was reacted with benzoyl choride (450 μL, 3.85 mmol) to provide 0.45 g of N-[8-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)octyl]benzamide as an off white powder, m.p. 133.1-136.7° C. Analysis: Calculated for C25H29N5O.0.25 H2O: % C, 71.49; % H, 7.08; % N, 16.67. Found: % C, 71.37; % H, 7.05; % N, 16.62.

reactant | 1-(8-aminooctyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.85 mmol | NCCCCCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C18H25N5
reactant | benzoyl choride | 3.85 mmol, 450 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-[8-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)octyl]benzamide | 0.45 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCCCCCNC(C2=CC=CC=C2)=O | C25H29N5O
